US05288726
3-(2-Chlorobenzyl)-5,6-dihydro-1,4,2-dioxazine
A solution of 5.0 g (29.3 mmole) of o-chlorophenylacetic acid and 0.3 g of p-toluenesulfonic acid monohydrate in 50 ml of methanol was heated under reflux for 6 hours. At the end of this time, 3.1 g (44 mmole) of hydroxylamine hydrochloride were added to the reaction mixture, followed by 2.1 g of sodium methoxide. The resulting reaction mixture was then heated under reflux for 10 hours. 14.2 g (103 mmole) of potassium carbonate and 5.1 ml of 1,2-dibromoethane were then added to the resulting reaction mixture, followed by 15 ml of water. The reaction mixture was then heated under reflux for a further 10 hours. At the end of this time, 200 ml of ethyl acetate were added to the reaction mixture, and the organic layer was separated, washed with a saturated aqueous solution of sodium hydrogencarbonate and dried over anhydrous sodium sulfate; the solvent was then removed by distillation under reduced pressure. The residue thus obtained was subjected to silica gel column chromatography, using a 9:1 by volume mixture of toluene and ethyl acetate as the eluent, to give 4.9 g of the title compound as an oil.

reactant | o-chlorophenylacetic acid | 29.3 mmole, 5.0 g | ClC1=C(C=CC=C1)CC(=O)O | C8H7ClO2
reactant | hydroxylamine hydrochloride | 44 mmole, 3.1 g | Cl.NO
reactant | sodium methoxide | 2.1 g | C[O-].[Na+]
reactant | potassium carbonate | 103 mmole, 14.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1,2-dibromoethane | 5.1 ml | BrCCBr | C2H4Br2
solvent | methanol | 50 ml | CO | CH4O
catalyst | p-toluenesulfonic acid monohydrate | 0.3 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 15 ml | O | H2O
product | 3-(2-Chlorobenzyl)-5,6-dihydro-1,4,2-dioxazine | 4.9 g | ClC1=C(CC2=NOCCO2)C=CC=C1 | C10H10ClNO2
